US04048191
A solution of 4.3 g. (0.015 mole) of 4-chloro-5- (p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile and 1.2 g. (0.030 mole) of sodium hydroxide in 11 ml. of deionized water and 20 ml. of 95% ethanol is stirred and refluxed for seven hours and is then stirred at ambient temperature for about 18 hours. The precipitate which results when this reaction mixture is poured into 500 ml. of dilute hydrochloric acid is filtered off, washed with water, and recrystallized once from acetonitrile and once from diethyl ether in a Soxhlet extractor to give 4-chloro-5-(p-chlorobenzoyl)-1- methylpyrrole-2-acetic acid as a buff solid; m.p. 203°-204° C. (dec.)

reactant | 4-chloro-5- (p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile | 0.015 mole | ClC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC#N | C14H10Cl2N2O
reactant | sodium hydroxide | 0.030 mole | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-5-(p-chlorobenzoyl)-1- methylpyrrole-2-acetic acid | ClC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)O | C14H11Cl2NO3
